US06660744B1
To a mixture of benzyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (3.0 g, 0.0063 mol) in pyridine (100 mL) was added racemic trans-2-phenyl-cyclopropane carbonyl chloride (1.163 g, 0.007 mol) at −5° C. The mixture was stirred at −5° C. for 10 minutes then warmed up to room temperature and stirred for 1.5 hours. The mixture was quenched with an aqueous 1N solution of sodium hydroxide. Organic solvents were removed under reduced pressure. The residue was partitioned between water (200 mL) and ethyl acetate (200 mL). The organic layer was washed with a 5% aqueous solution of citric acid (3×100 mL), 1 N aqueous solution of hydrochloride (3×100 mL), water, saturated aqueous solution of sodium bicarbonate, and brine, and dried over magnesium sulfate. The solvents were removed under reduced pressure to give trans benzyl 4-[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (3.47 g, 0.006 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 11.5 min. MS: MH+ 618.

reactant | benzyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.0063 mol, 3.0 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C25H27N7O3
reactant | racemic trans-2-phenyl-cyclopropane carbonyl chloride | 0.007 mol, 1.163 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | trans benzyl 4-[4-amino-3-(3-methoxy-4-{[(2-phenylcyclopropyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.006 mol, 3.47 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C35H35N7O4
